US04057559
A mixture of 1-methyl-2-oxocycloheptaneacetic acid (3.0 g, 0.0163 mole, obtained as described above), anhydrous potassium carbonate (2.76 g, 0.020 mole) and methyl iodide (8 ml) in acetone (50 ml) is stirred and heated to reflux for 2 hrs. Methyl iodide (3ml) is added and heating to reflux is continued for another 3 hrs. The solvent is evaporated, the residue taken up in water (50 ml), saturated with sodium chloride, and extracted with ether. The combined ether extracts are washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated to yield 1-methyl-2-oxocycloheptaneacetic acid methyl ester as an oil, νmaxCHCl3 1730, 1700 cm-1, nmr (CDCl3) δ1.2 (s), 3.67 (s).

reactant | 1-methyl-2-oxocycloheptaneacetic acid | 0.0163 mole, 3.0 g | CC1(C(CCCCC1)=O)CC(=O)O | C10H16O3
reactant | potassium carbonate | 0.020 mole, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 8 ml | CI | CH3I
reactant | Methyl iodide | 3ml | CI | CH3I
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-methyl-2-oxocycloheptaneacetic acid methyl ester | COC(CC1(C(CCCCC1)=O)C)=O | C11H18O3
